US06756382B2
A solution of 1-(4-aminobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.5 mmol) and triethylamine (0.64 mL, 4.6 mmol) in chloroform (100 mL) was cooled with an acetone/ice bath. Cyclopentanecarbonyl chloride (0.47 mL, 3.9 mmol) was slowly added. The reaction was complete within 10 minutes. The reaction mixture was washed with water (1×100 mL) and brine (1×100 mL). The organic layer was dried over magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was slurried with acetonitrile. The resulting solid was isolated by filtration and dried in an oven overnight to provide 1.01 g of N-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]cyclopentanecarboxamide as a light brown solid, m.p. 178.6-179.5° C. Analysis: Calculated for C22H29N5O.0.25 H2O: % C, 68.81; % H, 7.74; % N, 18.24. Found: % C, 68.77; % H, 7.87; % N, 18.19.

reactant | 1-(4-aminobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.5 mmol, 1.00 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5
reactant | triethylamine | 4.6 mmol, 0.64 mL | C(C)N(CC)CC | C6H15N
reactant | Cyclopentanecarbonyl chloride | 3.9 mmol, 0.47 mL | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]cyclopentanecarboxamide | 1.01 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)C2CCCC2)CC | C22H29N5O
